US06268387B1
Step A: 3-Amino-4-methoxybenzoic acid methyl ester
Concentrated H2SO4 (9 mL) was added in portions to a stirred solution of 3-amino-4-methoxybenzoic acid (20.06 g, 110.4 mmol) in methanol (280 mL). The mixture was heated to reflux overnight then cooled to room temperature, and the solvent was removed in vacuo. The residue was shaken with 10% aqueous potassium carbonate then extracted with ethyl acetate three times. The combined extracts were washed with saturated sodium bicarbonate, dried (MgSO4), filtered, and stripped of solvent under reduced pressure. The residual solid was triturated with hexane and filtered to yield the product (10.82 g); m.p. 75-77° C.

reactant | H2SO4 | 9 mL | OS(=O)(=O)O | H2O4S
reactant | 3-amino-4-methoxybenzoic acid | 110.4 mmol, 20.06 g | NC=1C=C(C(=O)O)C=CC1OC | C8H9NO3
reactant | methanol | 280 mL | CO | CH4O
product | 3-Amino-4-methoxybenzoic acid methyl ester | 10.82 g | COC(C1=CC(=C(C=C1)OC)N)=O | C9H11NO3
